US05552420
To a solution of 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-1-phenoxythiocarbonyloxy-butyl]-1-methylimidazole (1.94 mmol) in 35 ml of toluene was added AIBN (159 mg, 0.97 mmol) and n-tributyltin hydride (1.69 g), and the mixture was stirred at 75°-80° C. for 4 h. An aqueous sodium bicarbonate solution was added to the mixture, and the mixture was extracted with ethyl acetate, and then methylene chloride (2×). The combined organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (20 cm column, methylene chloride/methanol, 30/1-15/1) to afford 440 mg (67%) of 2-[4-[4-(2-methyltetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-1-methylimidazole, m.p. 100°-102° C. (from methylene chloride/hexane).

reactant | 2-[4-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-1-phenoxythiocarbonyloxy-butyl]-1-methylimidazole | 1.94 mmol | CN1N=C(N=N1)C1=CC(=C(OCCCC(OC(=S)OC2=CC=CC=C2)C=2N(C=CN2)C)C(=C1)C)C | C25H28N6O3S
reactant | AIBN | 0.97 mmol, 159 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-[4-(2-methyltetrazol-5-yl)-2,6-dimethylphenoxy]-butyl]-1-methylimidazole | 440 mg, 67% | CN1N=C(N=N1)C1=CC(=C(OCCCCC=2N(C=CN2)C)C(=C1)C)C | C18H24N6O
